US08232289B2
4. 1-[3-(Cyclopropoxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carbaldehyde
To a solution of 1-(3-cyclopropoxymethyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (410 mg, 1.03 mmol) in tetrahydrofuran (0.15 M) at 0° C. under nitrogen, 1.0 M lithium aluminum hydride in tetrahydrofuran (1.2 equiv) is added. The mixture is stirred at room temperature for 1 h and saturated aqueous solution of ammonium chloride is added and the aqueous layer is extracted with ethyl acetate. The organic layer is separated, dried over sodium sulfate and the solvent eliminated under reduced pressure. The crude material is dissolved in dichloromethane (14 mL) and manganese (IV) oxide (1.2 g, 13.9 mmol) is added. The mixture is stirred at room temperature overnight and then filtered through a pad of celite and the solvent is evaporated under reduced pressure. The crude is passed through a pad of silica gel (eluent: ethyl acetate and dichloromethane). The solvent is eliminated under reduced pressure to yield 90 mg of the title product. MS (m/z): 258 (M+1).

reactant | 1-(3-cyclopropoxymethyl-pyridin-2-yl)-3-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.03 mmol, 410 mg | C(C)OC(=O)C=1C(=NN(C1)C1=NC=CC=C1COC1CC1)C | C16H19N3O3
reactant | lithium aluminum hydride | 1.0 M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 0.15 M | O1CCCC1 | C4H8O
catalyst | manganese (IV) oxide | 13.9 mmol, 1.2 g | [O-2].[Mn+4].[O-2]
solvent | tetrahydrofuran | 1.2 equiv | O1CCCC1 | C4H8O
product | 1-[3-(Cyclopropoxymethyl)-2-pyridyl]-3-methyl-pyrazole-4-carbaldehyde | 90 mg | C1(CC1)OCC=1C(=NC=CC1)N1N=C(C(=C1)C=O)C | C14H15N3O2
